US09085517B2
4-(Bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide
A mixture of N-[(dimethylamino)sulfonyl]-2,5-difluoro-4-methylbenzamide (Preparation 2, 0.50 g, 1.80 mmol), N-bromosuccinimide (freshly recrystallised and dried, 0.42 g, 2.34 mmol) and azobisisobutyronitrile (14.8 mg, 0.09 mmol) in 1,2-dichloroethane (15 mL) was heated under reflux with stirring whilst being irradiated with light from a 100 watt lamp. After 6 hours more N-bromosuccinimide (300 mg, 1.69 mmol) and azobisisobutyronitrile (10 mg, 0.06 mmol) were added and the mixture heated for a further 4 hours. An additional amount of N-bromosuccinimide (100 mg, 0.56 mmol) was then added and the mixture heated under reflux for a further 4 hours. The reaction mixture was cooled to room temperature and evaporated in vacuo to leave a pale yellow oil (0.54 g). Purification by silica gel column chromatography eluting with ethyl acetate/heptane 0:100-1:4 afforded the title compound (0.176 g, 27%) as a colourless oil which solidified on standing.

reactant | N-[(dimethylamino)sulfonyl]-2,5-difluoro-4-methylbenzamide | 1.80 mmol, 0.50 g | CN(S(=O)(=O)NC(C1=C(C=C(C(=C1)F)C)F)=O)C | C10H12F2N2O3S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 1.69 mmol, 300 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.56 mmol, 100 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
catalyst | azobisisobutyronitrile | 0.09 mmol, 14.8 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
catalyst | azobisisobutyronitrile | 0.06 mmol, 10 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 4-(Bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | 0.54 g | BrCC1=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C1F)F | C10H11BrF2N2O3S
